US04812462
A suspension of 12.1 g histidine methyl ester dihydrochloride in 150 mL chloroform is treated at 0° C. with excess anhydrous ammonia. The resulting suspension is filtered and the filtrate is evaporated to give histidine methyl ester as an oil. This oil is dissolved in 100 mL dichloromethane and added dropwise to a refluxing solution of 8.1 g carbonyl diimidazole in 100 mL dichloromethane. Refluxing is continued 15 min after addition is complete then the reaction mixture is concentrated until it begins to crystallize. Ethyl ether is added and the solid is collected by filtration. Recrystallization from acetonitrile gives methyl-5,6,7,8-tetrahydro-5-oxoimidazo[1,5-c]-pyrimidine-7-carboxylate; mp 159°-164° C.

reactant | histidine methyl ester dihydrochloride | 12.1 g | Cl.Cl.COC([C@@H](N)CC1=CNC=N1)=O
reactant | ammonia | N | H3N
solvent | chloroform | 150 mL | C(Cl)(Cl)Cl | CHCl3
product | histidine methyl ester | COC([C@@H](N)CC1=CNC=N1)=O | C7H11N3O2
